US04094875
To a solution of 3-pyridylmethyl N-(4-cyanomethylphenyl)carbamate (5 g., 0.0187 mole) in 300 ml. of acetone was added an excess of hydrogen chloride in a steady stream. A white suspension formed and was filtered off to give 5.3 g. of solid melting at 215°-216° C. This was a 93.5% yield of 3-pyridylmethyl N-(4-cyanomethylphenyl)carbamate hydrochloride.

reactant | 3-pyridylmethyl N-(4-cyanomethylphenyl)carbamate | 0.0187 mole, 5 g | C(#N)CC1=CC=C(C=C1)NC(OCC=1C=NC=CC1)=O | C15H13N3O2
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 3-pyridylmethyl N-(4-cyanomethylphenyl)carbamate hydrochloride | 93.5% yield | Cl.C(#N)CC1=CC=C(C=C1)NC(OCC=1C=NC=CC1)=O | InChI=1S/C15H13N3O2.ClH/c16-8-7-12-3-5-14(6-4-12)18-15(19)20-11-13-2-1-9-17-10-13;/h1-6,9-10H,7,11H2,(H,18,19);1H
